US08372842B2
TFA (1 mL) was added to tert-butyl 4-(5-cyano-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (0.158 g, 0.352 mmol) in DCM (5 mL) and stirred at room temperature for 1 hour. The reaction was then concentrated to dryness and dried under vacuum for 3 hours. TFA (1.1 mL, 14.7 mmol) was added, and the mixture was heated at 65° C. for 2 hours. The reaction was concentrated to dryness. The resulting residue was dissolved in DCM (3 mL), and HCl in ether (2 mL, 2M) and ether (5 mL) were added. The resulting solid was collected by filtration to give 4-(piperazin-1-yl)-1H-pyrazolo[3,4-b]pyridine-5-carbonitrile dihydrochloride (0.091 g, 70%). MS APCI (+) m/z 229.1 detected.

reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 4-(5-cyano-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 0.352 mmol, 0.158 g | C(#N)C=1C(=C2C(=NC1)N(N=C2)CC2=CC=C(C=C2)OC)N2CCN(CC2)C(=O)OC(C)(C)C | C24H28N6O3
reactant | TFA | 14.7 mmol, 1.1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-(piperazin-1-yl)-1H-pyrazolo[3,4-b]pyridine-5-carbonitrile dihydrochloride | 0.091 g, 70% | Cl.Cl.N1(CCNCC1)C1=C2C(=NC=C1C#N)NN=C2 | InChI=1S/C11H12N6.2ClH/c12-5-8-6-14-11-9(7-15-16-11)10(8)17-3-1-13-2-4-17;;/h6-7,13H,1-4H2,(H,14,15,16);2*1H
